US05436247
To a solution of 6,7-dimethoxy-4-(4-isopropoxy-3-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl)quinoline-3-carboxylic acid ethyl ester (55.6 mg) in dichloromethane (2 ml), titanium tetrachloride (TIC14) (125 mg) was added at 0° C., followed by stirring at the same temperature for 6 hours. The reaction mixture was poured over water and extracted with chloroform. The chloroform layer was washed by sequential additions of a saturated aqueous sodium hydrogen carbonate solution and water and then dried (MgSO4), after which the solvent was distilled off. The residual oily substance was subjected to silica gel column chromatography and eluted with ethyl acetate-chloroform (3:2, v/v)to yield 6,7-dimethoxy-4-(4-hydroxy-3-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl)quinoline-3-carboxylic acid ethyl ester (24.5 mg, 48%) which was then recrystallized from ethyl acetate-hexane having a melting point of 176° to 178° C.

reactant | 6,7-dimethoxy-4-(4-isopropoxy-3-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl)quinoline-3-carboxylic acid ethyl ester | 55.6 mg | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC(C)C)OC)OC)OC)CN1N=CN=C1 | C27H30N4O6
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 125 mg | [Ti](Cl)(Cl)(Cl)Cl
product | 6,7-dimethoxy-4-(4-hydroxy-3-methoxyphenyl)-2-(1,2,4-triazol-1-ylmethyl)quinoline-3-carboxylic acid ethyl ester | 24.5 mg, 48% | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)O)OC)OC)OC)CN1N=CN=C1 | C24H24N4O6
